US07326718B2
10. 8-Hydroxy-6-methoxymethyl-2,3-dimethyl-imidazo[1,2-a]pyridine
A solution of 3.0 g (10.1 mmol) 8-benzyloxy-6-methoxymethyl-2,3-dimethyl-imidazo[1,2-a]pyridine in 50 ml ethanol is hydrogenated over 0.3 g 10% Pd/C (1 bar H2) for 1 h. The catalyst is filtered off and the filtrate is evaporated. The residue is crystallized from methanol/diethyl ether to give 1.2 g (57%) of the title compound as a colourless solid (m.p. 164-165° C.).

reactant | 8-benzyloxy-6-methoxymethyl-2,3-dimethyl-imidazo[1,2-a]pyridine | 10.1 mmol, 3.0 g | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)COC)C(=C(N2)C)C | C18H20N2O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 8-Hydroxy-6-methoxymethyl-2,3-dimethyl-imidazo[1,2-a]pyridine | 1.2 g, 57% | OC=1C=2N(C=C(C1)COC)C(=C(N2)C)C | C11H14N2O2
